US05883106
C. 4-[3-[4-(Pyrrol-1-ylmethyl)phenylthio]phenyl]-3,4,5,6-tetrahydro-2H-pyran-4-carboxamide
A suspension of 4-[3-[4-(pyrrol-1-ylmethyl)phenylthio]phenyl]-3,4,5,6-tetrahydro-2H-pyran-4-carboxylic acid (0.36 g, 0.93 mmol), ammonium bicarbonate (0.44 g, 5.58 mmol) and 2-ethoxy-1-ethoxycarbonyl-1,2-dihydroquinoline (0.28 g, 1.12 mmol) in dichloromethane (20 ml) were stirred at room temperature overnight. Ammonium bicarbonate and 2-ethoxy-1-ethoxycarbonyl-1,2-dihydroquinoline were added until the acid was consumed. The reaction mixture was diluted with dichloromethane (50 ml) and washed with water (50 ml). The organic extract was washed with cold 1N hydrochloric acid (50 ml), water (50 ml) and saturated aqueous sodium bicarbonate (5 ml), water (50 ml) and brine (50 ml), dried (magnesium sulfate) and concentrated to dryness. Recrystallization of the residue from ethyl acetate afforded the titled compound (198 mg, 54%).

reactant | 4-[3-[4-(pyrrol-1-ylmethyl)phenylthio]phenyl]-3,4,5,6-tetrahydro-2H-pyran-4-carboxylic acid | 0.93 mmol, 0.36 g | N1(C=CC=C1)CC1=CC=C(C=C1)SC=1C=C(C=CC1)C1(CCOCC1)C(=O)O | C23H23NO3S
reactant | ammonium bicarbonate | 5.58 mmol, 0.44 g | C([O-])(O)=O.[NH4+]
reactant | 2-ethoxy-1-ethoxycarbonyl-1,2-dihydroquinoline | 1.12 mmol, 0.28 g | C(C)OC1N(C2=CC=CC=C2C=C1)C(=O)OCC | C14H17NO3
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-[3-[4-(Pyrrol-1-ylmethyl)phenylthio]phenyl]-3,4,5,6-tetrahydro-2H-pyran-4-carboxamide | 198 mg, 54% | N1(C=CC=C1)CC1=CC=C(C=C1)SC=1C=C(C=CC1)C1(CCOCC1)C(=O)N | C23H24N2O2S
